US07435815B2
Cyclopropyl-(3-methoxy-benzyl)-amine
prepared by reaction of cyclopropylamine with 3-methoxy-benzaldehyde

reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | 3-methoxy-benzaldehyde | COC=1C=C(C=O)C=CC1 | C8H8O2
product | Cyclopropyl-(3-methoxy-benzyl)-amine | C1(CC1)NCC1=CC(=CC=C1)OC | C11H15NO
